US07019131B2
(4) p-Methylphenyl 2-deoxy-2-phthalimido-3-O-benzoyl-6O-t-butyldiphenylsilyl-1-thio-β-D-glucopyranoside:
A mixture of p-methylphenyl 2-deoxy-2-phthalimido-3-O-benzoyl-1-thio-β-D-glucopyranoside (70.0 mg, 0.1349 mmol), tert-butylchlorodiphenylsilane (83.2 mg, 0.2968 mmol), and imidazole (27.8 mg, 0.4047 mmol) in DMF (4 mL) was stirred for 4 h. The mixture was diluted with EtOAc (35 mL) and washed with water (3×10 mL). The organic layer was dried over Na2SO4 and concentrated. The residue was purified by column chromatography on silica gel (hexanes/EtOAc 4:1 to 3:1) to give product (82.0 mg, 80%) as a thick oil: 1H NMR (500 MHz, CDCl3) δ 7.85 (dd, J=83, 1.1 Hz, 2H), 7.80 (d, J=6.4 Hz, 1H), 7.73–7.77 (m, 5H), 7.60–7.66 (m, 2H), 7.28–7.47 (m, 11H), 7.00 (d, J=8.1 Hz, 2H), 5.93 (dd, J=10.3, 8.9 Hz, 1H), 5.77 (d, J=10.4 Hz, 1H), 4.47 (t, J=10.3 Hz, 1H), 4.01–4.09 (m, 2H), 3.97 (t, J=9.3 Hz, 1H), 3.78 (dt, J=9.6, 4.3 Hz, 1H), 3.18 (br. s, 1H), 2.28 (s, 3H), 1.09 (s, 9H); 13C NMR (125 MHz, CDCl3) δ 167.88, 167.17, 166.84, 138.14, 135.65, 135.60, 134.17, 134.04, 133.30, 133.26, 132.95, 132.91, 131.55, 131.21, 129.84, 129.77, 129.61, 128.90, 128.30, 127.79, 127.76, 123.54, 123.50, 83.29, 79.76, 75.38, 71.05, 64.12, 53.54, 26.80, 21.10, 19.22; HRMS (M+Na) calcd for C44H43O7NSSiNa 780.2427, found 780.2460 washed with H2O (15 mL), sat. NaHCO3 (15 mL), and brine (10 mL). The organic layer was dried (Na2SO4) and concentrated. The residue was subjected to column chromatography (hexanes/EtOAc 3:1) to give product (280 mg, 96%) as a foam: 1H NMR (500 MHz, CDCl3) δ 7.86 (dd, J=8.4, 1.0 Hz, 2H), 7.82 (d, J=6.4 Hz, 1H), 7.75 (d, J=6.3 Hz, 1H), 7.65–7.69 (m, 2H), 7.48 (t, J=75 Hz, 1H), 7.28–7.37 (m, 9H), 7.03 (d, J=7.7 Hz, 2H), 5.90 (dd, J=10.2, 8.8 Hz, 1H), 5.73 (d, J=10.4 Hz, 1H), 4.58–4.65 (ABq, J=11.9 Hz, 2H), 4.48 (t, J=10.4 Hz, 1H), 3.81–3.95 (m, 4H), 3.15 (d, J=3.7 Hz, 1H), 2.29 (s, 3H); 13C NMR (125 MHz, CDCl3) δ 167.86, 167.20, 166.86, 138.38, 137.86, 134.22, 134.11, 133.49, 133.38, 131.59, 131.27, 129.88, 129.66, 128.90, 128.43, 128.37, 127.77, 127.72, 123.58, 83.47, 78.71, 75.27, 73.72, 71.41, 70.10, 53.54, 21.14; HRMS (M+Na) calcd for C35H31O7NSNa 632.1719. found 632.1747.

reactant | p-methylphenyl 2-deoxy-2-phthalimido-3-O-benzoyl-1-thio-β-D-glucopyranoside | 0.1349 mmol, 70.0 mg | C1(C=2C(C(N1[C@H]1[C@H](SC3=CC=C(C=C3)C)O[C@@H]([C@H]([C@@H]1OC(C1=CC=CC=C1)=O)O)CO)=O)=CC=CC2)=O | C28H25NO7S
reactant | tert-butylchlorodiphenylsilane | 0.2968 mmol, 83.2 mg | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | imidazole | 0.4047 mmol, 27.8 mg | N1C=NC=C1 | C3H4N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 35 mL | CCOC(=O)C | C4H8O2
product | p-Methylphenyl 2-deoxy-2-phthalimido-3-O-benzoyl-6O-t-butyldiphenylsilyl-1-thio-β-D-glucopyranoside | 82.0 mg, 80% | C1(C=2C(C(N1[C@H]1[C@H](SC3=CC=C(C=C3)C)O[C@@H]([C@H]([C@@H]1OC(C1=CC=CC=C1)=O)O)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O)=CC=CC2)=O | C44H43NO7SSi
